US07863271B2
Following general procedure GP-C1, a mixture of 2-[4-(tert-butoxycarbonyl)piperazin-1-yl]benzoxazole-4-carboxylic acid and (S)-(−)-3-aminoquinuclidine dihydrochloride were coupled to provide (S)—N-(quinuclidine-8-yl)-2-(4-methyl-2-phenylpiperazin-1-yl)benzoxazole-4-carboxamide which was converted to the dihydrochloride salt following general procedure GP-D1 and isolated as a mixture of diastereomers. 1H NMR and MS consistent.

reactant | 2-[4-(tert-butoxycarbonyl)piperazin-1-yl]benzoxazole-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C17H21N3O5
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | Cl.Cl.N[C@@H]1CN2CCC1CC2
product | (S)—N-(quinuclidine-8-yl)-2-(4-methyl-2-phenylpiperazin-1-yl)benzoxazole-4-carboxamide | N12CCC(CC1)C(C2)NC(=O)C=2C=CC=C1C2N=C(O1)N1[C@H](CN(CC1)C)C1=CC=CC=C1 | C26H31N5O2
